US07714126B2
With a procedure similar to example 16 above, 2-(2-bromo-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[(2-cyclopropylmethoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 2-(2-bromo-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid and N2-(2-cyclopropylmethoxy-ethyl)-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C23H22BrF3N4O3 (m/e) 539, obsd 540 (M+H).

reactant | 2-(2-bromo-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid | BrC1=C(C=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H5BrF3NO3
reactant | N2-(2-cyclopropylmethoxy-ethyl)-N2-methyl-pyridine-2,5-diamine | C1(CC1)COCCN(C1=NC=C(C=C1)N)C | C12H19N3O
product | 2-(2-bromo-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[(2-cyclopropylmethoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | C1(CC1)COCCN(C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=C(C=CC=C1)Br)C | C23H22BrF3N4O3
